US05710106
Preparation of 2-[(2-Chloro-4-pyridyl)oxy]-6-[(p-fluorophenoxy)methyl]pyridine
A mixture of 2-(chloromethyl)-6-[(2-chloro-4-pyridyl)oxy]pyridine (1.66 g, 6.5 mmol), 4-fluorophenol (0.89 g, 8 mmol), and potassium carbonate (1.1 g, 8 mmol) in N,N-dimethylformamide (5 mL) is refluxed for 90 minutes, cooled, and diluted with a 1:1 hexane/ethyl acetate solution (100 mL). The organic mixture is then filtered through a layer of silica gel using a 1:1 hexane/ethyl acetate solution as eluent. The resultant solution is concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel and a 8:2 hexane/ethyl acetate solution gives the title product as colorless crystals (1.5 g, 70%, mp 103° C.).

reactant | 2-(chloromethyl)-6-[(2-chloro-4-pyridyl)oxy]pyridine | 6.5 mmol, 1.66 g | ClCC1=NC(=CC=C1)OC1=CC(=NC=C1)Cl | C11H8Cl2N2O
reactant | 4-fluorophenol | 8 mmol, 0.89 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 8 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | 100 mL | CCCCCC.C(C)(=O)OCC
product | 2-[(2-Chloro-4-pyridyl)oxy]-6-[(p-fluorophenoxy)methyl]pyridine | 1.5 g, 70% | ClC1=NC=CC(=C1)OC1=NC(=CC=C1)COC1=CC=C(C=C1)F | C17H12ClFN2O2
